US07501411B2
Step 2: 5-(8-(4-Morpholinophenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-5-yl)furan-3-carboxamide
A solution of [5-(4-carbamoyl-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-(4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester (33 mg, 0.065 mmol) in a mixture 1:1 DCM:TFA (2 mL) (2 drops of water) is stirred at room temperature for 2 hours. After addition of sat. Na2CO3, a precipitate is formed, collected by filtration and washed with water, diethyl ether and petroleum ether. After drying under vacuum, the title compound is isolated (20 mg, 76%). Conversion into the mesylate salt using 0.1M methanesulfonic acid in MeOH (0.444 mL) yields the title compound (19 mg, 100%). 1H-NMR (400 MHz, d6-DMSO) δ(ppm) 2.36 (3H, s, MsOH), 3.22 (4H, m), 3.82-3.89 (4H, m), 7.13 (2H, d), 7.36 (1H, br s), 7.86 (1H, s), 7.95 (3H, m), 8.17 (1H, s), 8.40 (1H, s), 8.84 (1H, s), 10.17 (1H, s). LCMS: Rt 2.60 min (96.9%), m/z (APCI) 406 (M+H)+.

reactant | [5-(4-carbamoyl-furan-2-yl)-[1,2,4]triazolo[1,5-a]pyrazin-8-yl]-(4-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester | 0.065 mmol, 33 mg | C(C)(C)(C)OC(N(C1=CC=C(C=C1)N1CCOCC1)C=1C=2N(C(=CN1)C=1OC=C(C1)C(N)=O)N=CN2)=O | C25H27N7O5
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-(8-(4-Morpholinophenylamino)-[1,2,4]triazolo[1,5-a]pyrazin-5-yl)furan-3-carboxamide | O1CCN(CC1)C1=CC=C(C=C1)NC=1C=2N(C(=CN1)C1=CC(=CO1)C(=O)N)N=CN2 | C20H19N7O3
